US06642240B2
2-(3,5-Bis-trifluoromethyl-phenyl)-3-methyl-butyric acid methyl ester
Sodium bis(trimethylsilyl) amide (1.0M in THF—177 μL) was added drop-wise to a solution of (3,5-bis-trifluoromethyl-phenyl)-acetic acid methyl ester (389 mg) in dry THF (2 mL) at 0° C., under nitrogen atmosphere. After ten minutes, isopropyl iodide (143 μL) was added and the reaction mixture was stirred at 0° C. for 30 min. Further isopropyl iodide (143 μL) was added and the solution stirred at r.t. for 1 hour. The reaction was quenched with a 2N hydrochloric acid solution (2 mL) and the product was extracted with Et2O (2×). The combined organic extracts were dried and concentrated in vacuo to a residue which was purified by flash chromatography (CH/AcOEt 95:5) to give the title compound (184 mg) as a colourless oil.

reactant | Sodium bis(trimethylsilyl) amide | 1.0M, 177 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (3,5-bis-trifluoromethyl-phenyl)-acetic acid methyl ester | 389 mg | COC(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C11H8F6O2
reactant | isopropyl iodide | 143 μL | C(C)(C)I | C3H7I
reactant | isopropyl iodide | 143 μL | C(C)(C)I | C3H7I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-3-methyl-butyric acid methyl ester | 184 mg | COC(C(C(C)C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C14H14F6O2
